US07297701B2
To a stirred solution of (Ph3SiO)2CrO2 (L. M. Baker and W. L. Carrick, J. Org. Chem. 1970, 35, 774) (10.6 mg, 0.017 mmol) in CH2Cl2 (5 ml) was added sequentially aqueous 70% tert-butyl hydroperoxide (0.18 ml, 1.3 mmol) and 2-(2,2-dimethylpropionyloxymethyl)-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one (0.1 g, 0.33 mmol). The mixture was stirred at room temperature with protection from the light for 24 h. The solvents were removed in vacuo and the residue purified by column chromatography (20 g of silica gel) eluting with a gradient of 10-30% EtOAc in CHCl3 to yield 2-(2,2-dimethylpropionyloxymethyl)-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4,6-dione as a white solid (47 mg, 45%); m.p. 185-190° C.; 1H-NMR (DMSO-d6) δ 1.23 (s, 9H, CMe3), 2.72 (m, 2H, 7-H), 3.25 (m, 2H, 8-H), 5.00 (s, 2H, 2-CH2), 7.70 (s, 1H, 9-H), 8.29 (s, 1H, 5-H), 12.20 (br, 1H, NH); MS (FAB, m/z): Found 315 [(M+H)+, 100%], 337 [(M+Na)+, 75%]; HRMS: measured 315.1360; calculated for C17H19N2O4 (M+H)+: 315.1345; Found C, 64.188; H, 5.72; N, 8.81. C11H18N2O4.0.2H2O requires C, 64.23; H, 5.79; N, 8.82%.

reactant | tert-butyl hydroperoxide | 1.3 mmol, 0.18 ml | C(C)(C)(C)OO | C4H10O2
reactant | 2-(2,2-dimethylpropionyloxymethyl)-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one | 0.33 mmol, 0.1 g | CC(C(=O)OCC1=NC2=CC3=C(C=C2C(N1)=O)CCC3)(C)C | C17H20N2O3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,2-dimethylpropionyloxymethyl)-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4,6-dione | 47 mg, 45% | CC(C(=O)OCC1=NC2=CC3=C(C=C2C(N1)=O)C(CC3)=O)(C)C | C17H18N2O4
